US07132428B2
b) 5-(2-chloro-phenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline (S)
The preparation took place in analogy to Example 33 (B), using 401 mg of 2-chloro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide. The reaction mixture was diluted with water and extracted with dichloromethane. The organic portion was concentrated under reduced pressure and purified by MPLC (4 g SiO2, dichloromethane/methanol=99/1→50/50) to give the title compound.

reactant | 2-chloro-N-(3-methyl-5-phenyl-1H-pyrazol-4-yl)-benzamide | 401 mg | ClC1=C(C(=O)NC=2C(=NNC2C2=CC=CC=C2)C)C=CC=C1 | C17H14ClN3O
solvent | water | O | H2O
product | 5-(2-chloro-phenyl)-3-methyl-1H-pyrazolo[4,3-c]isoquinoline | ClC1=C(C=CC=C1)C1=NC2=C(C=3C=CC=CC13)NN=C2C | C17H12ClN3
